US06455708B1
1-Fluoro-2-fluoromethyl-3-butyn-2-yl Benzenesulfonate
An amount (1.2 g) of 1-fluoro-2-fluoromethyl-3-butyn-2-ol and benzenesulfonyl chloride (1.8 g) were dissolved in tetrahydrofuran (10 ml); to the solution under cooling with ice, 60% oily sodium hydride (0.48 g) was added in a nitrogen atmosphere. After the end of the addition, the mixture was stirred for 4 hours while its temperature was raised to room temperature. A hexane/ether mixed solvent (1/1) was added to the reaction mixture, which was then washed with water and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane/methylene chloride=1/1) to give the titled compound (2.2 g).

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-ol | 1.2 g | FCC(C#C)(O)CF | C5H6F2O
reactant | benzenesulfonyl chloride | 1.8 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | hexane ether | CCCCCC.CCOCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Fluoro-2-fluoromethyl-3-butyn-2-yl Benzenesulfonate | 2.2 g | C1(=CC=CC=C1)S(=O)(=O)OC(CF)(C#C)CF | C11H10F2O3S
